US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (129 mg, 0.379 mmol), 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (78.3 mg, 0.493 mmol), triethylamine (115 mg, 1.14 mmol) and tetrahydrofuran (5.0 mL) as starting materials and in the same manner as in Example 96, the title compound (124 mg, 71%) was obtained as a white powder.

reactant | N-[6-(5-amino-2-methoxyphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.379 mmol, 129 mg | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)OC | C17H17N5O3
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.493 mmol, 78.3 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | triethylamine | 1.14 mmol, 115 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-4-methoxyphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 124 mg, 71% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2OC)NC(=O)C2=CC(=NN2C)C)C1 | C23H23N7O4
